US08044041B2
A mixture 6-bromo-4-chloro-2H-phthalazin-1-one (150 mg, 0.58 mmol), 4-(2-aminomethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (187 mg, 0.64 mmol), Pd2(dba)3 (53 mg, 0.058 mmol), rac-BINAP (132 mg, 0.17 mmol) and NaOt-Bu (140 mg, 1.45 mmol) in DMA (6 mL) was heated at 80° C. for 1 h. The mixture was allowed to cool, diluted with EtOAc (25 mL) and washed with water (25 mL). The organic layer was dried over anhydrous sodium sulfate and concentrated. Chromatography on silica (EtOAc/hexanes) yielded 4-{2-[(4-chloro-1-oxo-1,2-dihydro-phthalazin-6-ylamino)-methyl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester. Deprotection with TFA in DCM yielded the title compound. 4-Chloro-6-(2-piperazin-1-yl-benzylamino)-2H-phthalazin-1-one: 46 mg (16.9%): m/z (M+H)=370.00. 1H-NMR (DMSO-d6) δ: 12.31 (s, 1H), 7.89 (d, 1H), 7.77 (m, 1H), 7.33 (d, 1H), 7.21 (m, 1H), 7.14 (dd, 1H), 7.10 (m, 1H), 7.00 (m, 1H), 6.64 (s, 1H), 4.43 (d, 2H), 2.90 (m, 5H), 2.82 (m, 4H).

reactant | 6-bromo-4-chloro-2H-phthalazin-1-one | 0.58 mmol, 150 mg | BrC=1C=C2C(=NNC(C2=CC1)=O)Cl | C8H4BrClN2O
reactant | 4-(2-aminomethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.64 mmol, 187 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CN | C16H25N3O2
reactant | rac-BINAP | 0.17 mmol, 132 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOt-Bu | 1.45 mmol, 140 mg | CC(C)(C)[O-].[Na+]
solvent | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.058 mmol, 53 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-{2-[(4-chloro-1-oxo-1,2-dihydro-phthalazin-6-ylamino)-methyl]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNC=1C=C2C(=NNC(C2=CC1)=O)Cl | C24H28ClN5O3
